US06184231B2
Step A: 3-(2-Hydroxyethyl)-4-hydroxy-6-chlorocoumarin (45)
To a solution of γ-butyrolactone (15.5 g, 178.0 mmol) in THF (100 mL) at −78° C. was added a 1.0 M THF solution of LiHMDS (356 mL, 356 mmol), and the resulting mixture stirred at −78° C. for 1.5 hours. A solution of 5-chlorosalicylic methyl ester (16.6 g, 98% purity, 89.0 mmol) in THF (95 mL) was added. After stirring for 1 hour at 0° C., the mixture was warmed to room temperature overnight to ensure complete reaction. After cooling to 0° C., conc. HCl (12 N, 150 mL) was slowly added to bring the pH to 1. The reaction solution was stirred until HPLC analysis indicated the absence of the keto-ester intermediate. To the mixture was added 400 mL CH2Cl2 and 300 mL H2O; the organic phase was separated and the aqueous layer was extracted with CH2Cl2 (100 mL). The organic layers were combined and dried over anhydrous Na2SO4, and the solvent was removed under reduced pressure to give a solid. Heptane (165 mL) was added to a solution of the solid in THF (290 mL) to crystallize the product. After cooling to 0-5° C. for about 3 hours, the product was isolated by filtration and washed with heptane. After drying in vacuo, a total of 13.9 g (66% yield) of the title compound as off-white crystals was obtained. m.p. 185-186° C.; MS m/z 240;

reactant | γ-butyrolactone | 178.0 mmol, 15.5 g | C1(CCCO1)=O | C4H6O2
reactant | LiHMDS | 356 mmol, 356 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | 5-chlorosalicylic methyl ester | 89.0 mmol, 16.6 g | COC(C=1C(O)=CC=C(C1)Cl)=O | C8H7ClO3
reactant | HCl | 12 N, 150 mL | Cl | ClH
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 95 mL | C1CCOC1 | C4H8O
solvent | THF | 290 mL | C1CCOC1 | C4H8O
solvent | THF | 1.0 M | C1CCOC1 | C4H8O
solvent | Heptane | 165 mL | CCCCCCC | C7H16
solvent | H2O | 300 mL | O | H2O
solvent | CH2Cl2 | 400 mL | C(Cl)Cl | CH2Cl2
product | 3-(2-Hydroxyethyl)-4-hydroxy-6-chlorocoumarin | 13.9 g, 66% yield | OCCC=1C(OC2=CC=C(C=C2C1O)Cl)=O | C11H9ClO4
